US09359381B2
Step 4: 6-(3-((4-Methoxybenzyl)oxy)-2-(tritylthio)propyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Potassium iodide (9.80 mg, 0.059 mmol) was added to a mixture of 1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (Intermediate Nd) (81 mg, 0.294 mmol), (1-chloro-3-((4-methoxybenzyl)oxy)propan-2-yl)(trityl)sulfane (158 mg, 0.323 mmol) and cesium carbonate (191 mg, 0.587 mmol) in dimethylacetamide (2 ml). The mixture was stirred at 50° C. for 3 days. The reaction mixture was partitioned between water (20 ml) and ethyl acetate (20 ml), the phases were separated and the aqueous phase extracted with ethyl acetate (10 ml). The combined organic extracts were washed with brine (20 ml), dried over magnesium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-50% EtOAc/hexane, afforded the title compound.

reactant | Potassium iodide | 0.059 mmol, 9.80 mg | [I-].[K+]
reactant | 1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.294 mmol, 81 mg | CN1C(N(C(C=2C1=CNC2C=2SC=C(N2)C)=O)C)=O | C12H12N4O2S
reactant | (1-chloro-3-((4-methoxybenzyl)oxy)propan-2-yl)(trityl)sulfane | 0.323 mmol, 158 mg | ClCC(COCC1=CC=C(C=C1)OC)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29ClO2S
reactant | cesium carbonate | 0.587 mmol, 191 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
product | 6-(3-((4-Methoxybenzyl)oxy)-2-(tritylthio)propyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | COC1=CC=C(COCC(CN2C=C3N(C(N(C(C3=C2C=2SC=C(N2)C)=O)C)=O)C)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C42H40N4O4S2
